US05977178
(2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid (168 mg, 0.69 mmol) and 1-hydroxy-7-azabenzotriazole (94 mg, 0.69 mmol) were dissolved in N,N-dimethylformamide (3 ml) and dichloromethane (3 ml). The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (132 mg, 0.69 mmol) was added. The reaction mixture was stirred for 15 min at 0° C. A solution of (2R)-2-methylamino-N-methyl-3-(2-naphthyl)-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl) carbamoyl)ethyl)propionamide (327 mg, 0.69 mmol) in dichloromethane (3 ml) was added. Ethyldiisopropylamine (0.12 ml, 0.69 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (50 ml) and washed with 10% aqueous sodium hydrogen sulfate solution (50 ml). The aqueous phase was extracted with ethyl acetate (2×20 ml). The combined organic layers were washed with saturated sodium hydrogen carbonate solution (100 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (160 g), using ethyl acetate/heptane 1:1 as eluent to give 447 mg of ((3E)-4-(N-methyl-N-((1R)-1-(N-methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl)carbamoyl)ethyl)carbamoyl)-2-(2-naphthyl) ethyl)carbamoyl)-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester.

reactant | (2E)-5-(tert-Butoxycarbonylamino)-5-methylhex-2-enoic acid | 0.69 mmol, 168 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | 1-hydroxy-7-azabenzotriazole | 0.69 mmol, 94 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 0.69 mmol, 132 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-methylamino-N-methyl-3-(2-naphthyl)-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl) carbamoyl)ethyl)propionamide | 0.69 mmol, 327 mg | CN[C@@H](C(=O)N([C@H](CC1=CC=CC=C1)C(NCC(F)(F)F)=O)C)CC1=CC2=CC=CC=C2C=C1 | C26H28F3N3O2
reactant | Ethyldiisopropylamine | 0.69 mmol, 0.12 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ((3E)-4-(N-methyl-N-((1R)-1-(N-methyl-N-((1R)-2-phenyl-1-((2,2,2-trifluoroethyl)carbamoyl)ethyl)carbamoyl)-2-(2-naphthyl) ethyl)carbamoyl)-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester | 447 mg | C(C)(C)(C)OC(NC(C\C=C\C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NCC(F)(F)F)=O)C)=O)C)=O)(C)C)=O | C38H47F3N4O5
